### PR TITLE
feat(Category/Abelian/Injective): interaction between `InjectiveResolution.extMk` and the connecting morphism

### PR DESCRIPTION
**Pull request by joelriou**
Given a short exact sequence `0 → X₁ → X₂ → X₃ → 0` and an injective resolution `R` of an object `Y`, we give a concrete computation of the connecting homomorphism $$Ext^n(X_1, Y) \to Ext^{n + 1}(X_3, Y)$$.

---

- [x] depends on: #43492
- [x] depends on: #43086
- [x] depends on: #43089
- [x] depends on: #43103

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean [hunk 1]
```diff
@@ -27,25 +27,50 @@ universe w v u
...
+    congr 1
+    exact Quotient.sound h) x
+
+@[simp]
+lemma toShiftedHom_mk (y : Cocycle K L n) :
+    toShiftedHom (mk y) = ShiftedHom.map (Cocycle.equivHomShift.symm y) Q := rfl
+
+end
+
+
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean [hunk 2]
```diff
@@ -27,25 +27,49 @@ universe w v u
...
+namespace CohomologyClass
+
+section
+
+open DerivedCategory
+
+variable [HasDerivedCategory C]
+
+/-- This is the morphism `Q.obj K ⟶ (Q.obj L)⟦n⟧` in the derived cateogry that is
```
Comment (Multramate) [inline Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean]:
```suggestion
/-- This is the morphism `Q.obj K ⟶ (Q.obj L)⟦n⟧` in the derived category that is
```

File: Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean [hunk 3]
```diff
@@ -27,25 +27,49 @@ universe w v u
...
+/-- This is the morphism `Q.obj K ⟶ (Q.obj L)⟦n⟧` in the derived category that is
+attached to a class in `CohomologyClass K L n`. -/
+noncomputable def toShiftedHom (x : CohomologyClass K L n) : Q.obj K ⟶ (Q.obj L)⟦n⟧ :=
+  Quotient.lift (fun y ↦ ShiftedHom.map (Cocycle.equivHomShift.symm y) Q) (fun y₁ y₂ h ↦ by
+    simp only [ShiftedHom.map]
+    rw [cancel_mono, DerivedCategory.Q_map_eq_of_homotopy]
+    apply HomotopyCategory.homotopyOfEq
+    rw [← toHom_mk, ← toHom_mk]
+    congr 1
+    exact Quotient.sound h) x
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/DerivedCategory/SmallShiftedHom.lean]: nit: the `DerivedCategory.Q_map_eq_of_homotopy` opens a `Homotopy _ _` goal and closes the
main goal after the rewrite, so it is really intended as an `apply` rather than a `rw` here!
```suggestion
    dsimp [ShiftedHom.map]
    rw [cancel_mono]
    apply DerivedCategory.Q_map_eq_of_homotopy _ <| HomotopyCategory.homotopyOfEq _ _ ?_
    simp_rw [← toHom_mk]
    congr 1
    exact Quotient.sound h) x
```

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean [hunk 4]
```diff
@@ -764,15 +764,21 @@ lemma δ_ofHom_comp {n : ℤ} (f : F ⟶ G) (z : Cochain G K n) (m : ℤ) :
...
 
 /-- The postcomposition of a cocycle with a morphism of cochain complexes. -/
-@[simps!]
+@[implicit_reducible, simps!]
 def Cocycle.postcomp {n : ℤ} (z : Cocycle F G n) (f : G ⟶ K) : Cocycle F K n :=
   Cocycle.mk (z.1.comp (Cochain.ofHom f) (add_zero n)) _ rfl (by simp)
 
+/-- The composition of two cocycles. -/
+@[implicit_reducible, simps!]
+def Cocycle.comp {a b c : ℤ} (z₁ : Cocycle F G a) (z₂ : Cocycle G K b) (h : a + b = c) :
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean]:
```suggestion
def Cocycle.comp {a b c : ℤ} (z₁ : Cocycle F G a) (z₂ : Cocycle G K b) (h : a + b = c := by lia) :
```

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean [hunk 5]
```diff
@@ -764,15 +764,21 @@ lemma δ_ofHom_comp {n : ℤ} (f : F ⟶ G) (z : Cochain G K n) (m : ℤ) :
...
+    Cocycle F K c :=
+  Cocycle.mk (z₁.1.comp z₂.1 h) _ rfl (by simp [δ_comp _ _ _ _ _ _ rfl rfl rfl])
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean]:
```suggestion
  Cocycle.mk (z₁.1.comp z₂.1 h) _ rfl (by simp [δ_comp])
```

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplexShift.lean [hunk 6]
```diff
@@ -562,6 +563,19 @@ lemma equivHomShift_symm_postcomp
     equivHomShift.symm (z.postcomp g) = equivHomShift.symm z ≫ g⟦n⟧' :=
   equivHomShift.injective (by simp [equivHomShift_comp_shift])
 
+lemma shiftedHomComp_equivHomShift_symm
+    {a b c : ℤ} (z : Cocycle K L a) {K' : CochainComplex C ℤ}
+    (g : ShiftedHom K' K b) (h : a + b = c) :
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplexShift.lean]:
```suggestion
    (g : ShiftedHom K' K b) (h : a + b = c := by lia) :
```

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean [hunk 7]
```diff
@@ -255,4 +256,89 @@ lemma extMk_comp_mk₀ {n : ℕ} (f : X ⟶ R.cocomplex.X n) (m : ℕ) (hm : n +
...
+    Cocycle.shiftedHomComp_equivHomShift_symm, Cocycle.shiftedHomComp_equivHomShift_symm,
+    ← CohomologyClass.toShiftedHom_mk, ← CohomologyClass.toShiftedHom_mk]
+  congr 1
+  symm
+  rw [← sub_eq_zero, ← CohomologyClass.mk_sub, CohomologyClass.mk_eq_zero_iff,
+    mem_coboundaries_iff _ n (by lia)]
+  refine ⟨Int.negOnePow m • (mappingCone.snd _).comp ((Cochain.fromSingleEquiv (zero_add _)).symm
+    (f₂ ≫ (R.cochainComplexXIso n n rfl).inv)) (zero_add _), ?_⟩
+  dsimp
+  simp only [Cocycle.comp_coe, Cocycle.fromSingleMk_coe]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]: The only thing I could remove in this huge proof if this:
```suggestion
```
It’s still very long but I don’t think there is much we can do about it unfortunately :(
